US04070366
2,4-Dimethyl-3-n-propyl-5-carbethoxy-pyrrole
Acetic anhydride (20 ml) was added to stirred and cooled concentrated hydrochloric acid (5 ml), and 2,4-dimethyl-5-carbethoxy-pyrrole (0.668 g) was dissolved in this. Propionaldehyde (0.6 ml) and amalgamated zinc (10 g, 20 mesh) was added, the mixture stirred 15 min, at 20°-25° then decanted into ice water (100 ml). The solid was distilled (80°-95°, 1 × 10-4 mm) and crystallized from aqueous ethanol as colourless irregular prisms (48%), m.p. 99°-99.5° (lit19) 98°). Anal. Calc. for C12H19NO2 : C, 68.86; H, 9.15; N, 6.69. Found: C, 68.75; H, 9.19; N, 6.89.

reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | 2,4-dimethyl-5-carbethoxy-pyrrole | 0.668 g | CC=1NC(=C(C1)C)C(=O)OCC | C9H13NO2
reactant | Propionaldehyde | 0.6 ml | C(CC)=O | C3H6O
catalyst | zinc | 10 g | [Zn] | Zn
solvent | Acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-Dimethyl-3-n-propyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1CCC)C)C(=O)OCC | C12H19NO2
